US06723720B2
6-(2,6-Difluorophenyl)-3-(4′-trifluoromethoxybiphenyl-4-yl)-[1,2,4]triazine
244 mg of 3-(4-bromophenyl)-6-(2,6-difluorophenyl)-[1,2,4]triazine are placed in 1.8 ml of 1,2-dimethoxyethane, and 2.5 mg of bis(triphenylphosphine)palladium(II) dichloride, 159 mg of 4-trifluoromethoxyphenylboric acid and 176 mg of sodium hydrogen carbonate in 1.8 ml of water are added in succession. The reaction mixture is then heated at 70° C. for 5 h. After cooling to room temperature, the suspension is poured into 1N sodium hydroxide solution and extracted with ethyl acetate. The organic phase is washed with saturated sodium chloride solution, dried over sodium sulfate, filtered and concentrated. The crude product is dissolved in a minimum of hot ethyl acetate, filtered clear and crystallised at 0° C. In this way the title compound having a melting point of 199-202° C. is obtained.

reactant | 3-(4-bromophenyl)-6-(2,6-difluorophenyl)-[1,2,4]triazine | 244 mg | BrC1=CC=C(C=C1)C=1N=NC(=CN1)C1=C(C=CC=C1F)F | C15H8BrF2N3
reactant | 4-trifluoromethoxyphenylboric acid | 159 mg | FC(OC1=CC=C(C=C1)OB(O)O)(F)F | C7H6BF3O4
reactant | sodium hydrogen carbonate | 176 mg | C(O)([O-])=O.[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | 1,2-dimethoxyethane | 1.8 ml | COCCOC | C4H10O2
solvent | water | 1.8 ml | O | H2O
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 2.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-(2,6-Difluorophenyl)-3-(4′-trifluoromethoxybiphenyl-4-yl)-[1,2,4]triazine | FC1=C(C(=CC=C1)F)C1=CN=C(N=N1)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F | C22H12F5N3O
